US06166219
A solution of 0.80 g of N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide in 10 ml of N,N-dimethylformamide were added 1.31 g of 4-benzyloxybenzyl chloride and 1.18 g of sodium hydrogencarbonate, and the mixture was stirred at 90° C. for 2 hours. Chloroform and water were added to the reaction solution, and the chloroform extraction was conducted. The organic layer was washed with water, concentrated, and purified through silica-gel column chromatography to give 0.434 g of N-(2-pyridylmethyl)-4-acetylamino-3-(4-benzyloxybenzylamino)benzamide.

reactant | N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide | 0.80 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H16N4O2
reactant | 4-benzyloxybenzyl chloride | 1.31 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium hydrogencarbonate | 1.18 g | C(O)([O-])=O.[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-pyridylmethyl)-4-acetylamino-3-(4-benzyloxybenzylamino)benzamide | 0.434 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)NCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H28N4O3
